US09102591B2
3-Cyano-N-[4,4-difluoro-1-(6-trifluoromethyl-pyridin-3-yl)-cyclohexylmethyl]-2-methyl-benzamide
From 3-cyano-2-methylbenzoic acid and C-[4,4-difluoro-1-(6-trifluoromethyl-pyridin-3-yl)-cyclohexyl]-methylamine. LCMS (MH+): m/z=438.2, tR (minutes, Method D)=0.75

reactant | 3-cyano-2-methylbenzoic acid | C(#N)C=1C(=C(C(=O)O)C=CC1)C | C9H7NO2
reactant | C-[4,4-difluoro-1-(6-trifluoromethyl-pyridin-3-yl)-cyclohexyl]-methylamine | FC1(CCC(CC1)(C=1C=NC(=CC1)C(F)(F)F)CN)F | C13H15F5N2
product | 3-Cyano-N-[4,4-difluoro-1-(6-trifluoromethyl-pyridin-3-yl)-cyclohexylmethyl]-2-methyl-benzamide | C(#N)C=1C(=C(C(=O)NCC2(CCC(CC2)(F)F)C=2C=NC(=CC2)C(F)(F)F)C=CC1)C | C22H20F5N3O
